US06017467
3-fluoro-4-cyanoethynyl-1-(trans-4-propylcyclohexyl)benzene (Compound No. 2)
To a solution of 10 mmol of 3-fluoro-4-iodoethynyl-1-(trans-4-propylcyclohexyl)benzene in 3 ml of tetrahydrofuran were added 11 mmol of copper cyanide and 3 mmol of lithium bromide, and the solution was stirred for 5 hours under reflux. To the reaction solution were added 10 ml of 6N hydrochloric acid saturated solution of ferric chloride and the solution was stirred at room temperature for one hour. After completion of the agitation, the reaction solution was extracted with toluene, the organic layer was washed with water, dried over anhydrous magnesium sulfate and concentratred under reduced pressure. The resulting brown, oily product was isolated and purified by a silica gel column chromatography to afford a colourless oily substance which was recrystallized from ethanol to afford colourless crystal. This was identified as the title compound by analytical results.

reactant | 3-fluoro-4-iodoethynyl-1-(trans-4-propylcyclohexyl)benzene | 10 mmol | FC=1C=C(C=CC1C#CI)[C@@H]1CC[C@H](CC1)CCC | C17H20FI
reactant | copper cyanide | 11 mmol | [Cu](C#N)C#N
reactant | lithium bromide | 3 mmol | [Br-].[Li+]
reactant | hydrochloric acid | 6N, 10 ml | Cl | ClH
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 3-fluoro-4-cyanoethynyl-1-(trans-4-propylcyclohexyl)benzene | FC=1C=C(C=CC1C#CC#N)[C@@H]1CC[C@H](CC1)CCC | C18H20FN
